US07737136B2
trans-7-Chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (10 mg, 0.03 mmol) was dissolved in 1 mL of ethyl fluoroacetate. The resulting mixture was heated to reflux for 2 h. Evaporation followed by crystallisation from methanol gave trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2-fluoroacetamide (4.7 mg, 39%). Data: (m/z)=361 (M+H)+.

reactant | trans-7-Chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 0.03 mmol, 10 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4N)C=CC=C3)C=C1 | C17H17ClN2O
reactant | ethyl fluoroacetate | 1 mL | FCC(=O)OCC | C4H7FO2
product | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2-fluoroacetamide | 4.7 mg, 39% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(CF)=O)C=CC=C3)C=C1 | C19H18ClFN2O2
